US07598423B2
Synthesis of 3-{1-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-vinyl}-benzonitrile
The title compound is prepared in a similar manner as 3-[[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile, employing 3-[1-(4-triisopropylsilanyloxymethyl-phenyl)-vinyl]-benzonitrile to give 0.46 g, 47%, of the title compound as a white solid. LCMS M+1 412.

reactant | 3-[[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC2OCCCC2)C=C1)CCC)O | C31H33NO5
reactant | 3-[1-(4-triisopropylsilanyloxymethyl-phenyl)-vinyl]-benzonitrile | C(C)(C)[Si](OCC1=CC=C(C=C1)C(=C)C=1C=C(C#N)C=CC1)(C(C)C)C(C)C | C25H33NOSi
product | 3-{1-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-vinyl}-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(=C)C=2C=C(C#N)C=CC2)C=C1)CCC)O | C27H25NO3
